US06204278B1
WSC (990 mg, 5.2 mmols) and HOBt (698 mg, 5.2 mmols) were added to a DMF (10 ml) solution of 2,4-difluoroaniline (1.29 g, 10 mmols) and 10-bromodecanoic acid (1.18 g, 4.7 mmols), and stirred at room temperature for 15 hours. The reaction mixture was extracted with ether. The organic layer was washed with water, 1 N HCl, an aqueous saturated solution of sodium hydrogencarbonate and saturated saline in that order, and dried with anhydrous magnesium sulfate, and the solvent was evaporated. Then, the residue was purified through silica gel column chromatography (developer: hexane/acetone=10/1), and the resulting crystals were recrystallized from ether-hexane to obtain 763 mg (yield: 45%) of 10-bromo-N-(2,4-difluorophenyl)decanamide as colorless needle-like crystals.

reactant | WSC | 5.2 mmols, 990 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 5.2 mmols, 698 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2,4-difluoroaniline | 10 mmols, 1.29 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | 10-bromodecanoic acid | 4.7 mmols, 1.18 g | BrCCCCCCCCCC(=O)O | C10H19BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 10-bromo-N-(2,4-difluorophenyl)decanamide | 763 mg, yield: 45% | BrCCCCCCCCCC(=O)NC1=C(C=C(C=C1)F)F | C16H22BrF2NO
